US05580986
3. 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarboxylic Acid
18.9 g (0.06 mol) Ethyl 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolyl-4-pyrazolecarboxylate was dissolved in 150 ml 50% ethanol and treated with 15 ml 5% caustic soda. The mixture was heated for 2 hours at 80° C., the ethanol distilled, the residue treated with ice-water and acidified with concentrated hydrochloric acid. The residue was removed by suction filtration, washed with water and dried in vacuo at 75° C.

reactant | Ethyl 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolyl-4-pyrazolecarboxylate | 0.06 mol, 18.9 g | NC1C(C=NN1C1=NN(C(=C1)OC(F)F)C)(C(=O)OCC)C1=NNC=C1 | C14H17F2N7O3
reactant | caustic soda | 15 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarboxylic Acid | NC1=C(C=NN1C1=NN(C(=C1)OC(F)F)C)C(=O)O | C9H9F2N5O3
